US08633200B2
Methyl 2-tert-butoxy-2-(5-methyl-2-phenyl-7-p-tolylpyrazolo[1,5-a]pyrimidin-6-yl)acetate
To a solution of methyl 2-hydroxy-2-(5-methyl-2-phenyl-7-p-tolylpyrazolo[1,5-a]pyrimidin-6-yl)acetate (6.20 mg, 0.016 mmol) in tert-butyl acetate (0.3 mL) at room temperature was added perchloric acid (0.008 mL, 0.128 mmol). The reaction mixture was stirred for 2 h at room temperature. The reaction mixture was quenched with water and diluted with ethyl acetate. The organic phase was washed with saturated NaHCO3 and dried over sodium sulfate. The solvent was evaporated to give the title compound. The crude product was used directly for next step.

reactant | methyl 2-hydroxy-2-(5-methyl-2-phenyl-7-p-tolylpyrazolo[1,5-a]pyrimidin-6-yl)acetate | 0.016 mmol, 6.20 mg | OC(C(=O)OC)C=1C(=NC=2N(C1C1=CC=C(C=C1)C)N=C(C2)C2=CC=CC=C2)C | C23H21N3O3
reactant | perchloric acid | 0.128 mmol, 0.008 mL | Cl(=O)(=O)(=O)O | ClHO4
solvent | tert-butyl acetate | 0.3 mL | C(C)(=O)OC(C)(C)C | C6H12O2
product | Methyl 2-tert-butoxy-2-(5-methyl-2-phenyl-7-p-tolylpyrazolo[1,5-a]pyrimidin-6-yl)acetate | C(C)(C)(C)OC(C(=O)OC)C=1C(=NC=2N(C1C1=CC=C(C=C1)C)N=C(C2)C2=CC=CC=C2)C | C27H29N3O3
